US04311787
1-(p-carboxyphenyl)-3-methyl-4-(3'-methoxy-4'-hydroxybenzylidene)-2-pyrazolin-5-one
218 g (1 mole) of 1-p-carboxyphenyl-3-methyl-2-pyrazolin-5-one and 152 g (1 mole) of vanillin were dissolved in 500 ml of dimethylformamide. The reaction mixture was heated for 3 h at 100° C. After cooling down to room temperature the crystallized dye was filtered with suction and rinsed with methanol.

reactant | 1-p-carboxyphenyl-3-methyl-2-pyrazolin-5-one | 1 mole, 218 g | C(=O)(O)C1=CC=C(C=C1)N1N=C(CC1=O)C | C11H10N2O3
reactant | vanillin | 1 mole, 152 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-(p-carboxyphenyl)-3-methyl-4-(3'-methoxy-4'-hydroxybenzylidene)-2-pyrazolin-5-one | C(=O)(O)C1=CC=C(C=C1)N1N=C(C(C1=O)=CC1=CC(=C(C=C1)O)OC)C | C19H16N2O5
